US07253196B2
2-((1S,2S,4R)-Bicyclo[2.2.1]heptan-2-ylamino)-5-(2-bromoethyl)thiazol-4(5H)-one
To a solution of 2-((1S,2S,4R)-bicyclo[2.2.1]heptan-2-ylamino)thiazol-4(5H)-one (2.98 g, 14.2 mmol) in THF (15 ml) at −78° C. was added LDA (2.0 N, 28.4 ml). After 5 min, 1,2-dibromoethane (4.87 mL, 56.8 mmol) was added, and the reaction mixture was stirred for 3 h at −78° C. The resulting reaction mixture was poured into sat'd NaH2PO4 and extracted with EtOAc. The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The crude residue was purified by flash chromatography (4:1; Hexane:EtOAc) to give the title compound as a white solid. MS (ES+): 317 (M+H)+.

reactant | 2-((1S,2S,4R)-bicyclo[2.2.1]heptan-2-ylamino)thiazol-4(5H)-one | 14.2 mmol, 2.98 g | [C@H]12[C@H](C[C@H](CC1)C2)NC=2SCC(N2)=O | C10H14N2OS
reactant | LDA | 2.0 N, 28.4 ml | [Li+].CC(C)[N-]C(C)C
reactant | 1,2-dibromoethane | 56.8 mmol, 4.87 mL | BrCCBr | C2H4Br2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-((1S,2S,4R)-Bicyclo[2.2.1]heptan-2-ylamino)-5-(2-bromoethyl)thiazol-4(5H)-one | [C@H]12[C@H](C[C@H](CC1)C2)NC=2SC(C(N2)=O)CCBr | C12H17BrN2OS
